US08865712B2
i) N-[1-(6-Bromo-pyridin-2-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide
To a solution of N-[1-(6-bromo-pyridin-2-yl)-2-methoxymethoxy-1-methoxymethoxymethyl-ethyl]-2-chloro-acetamide (9.0 g, 21.861 mmol) in ethanethiol (30 ml) and BF3.Et2O (9.3 g, 141.93 mmol) was added at 0° C. and stirred for 10 min. Stirring was continued for 3 h at rt. Reaction mixture was quenched with saturated NaHCO3 solution and the product formed was extracted with ethyl acetate. Organic layer was separated and washed with brine solution, followed by drying over anhydrous Na2SO4. Organic layer was concentrated under reduced pressure and purified by column chromatography using 2% methanol in chloroform to obtain title compound as a brown liquid. Yield=5.5 g (77%). TLC (10% methanol in chloroform) Rf=0.51; LCMS: RtH8=0.916, [M+1]=322.9 and 324.8; HPLC RtH9=5.931 min (89%); 1H NMR (400 MHz, CDCl3): δ 8.27 (s, 1H), 7.56 (t, 1H), 7.42-7.39 (m, 2H), 4.38 (s, 2H), 4.09-4.07 (m, 4H), 3.95 (d, 2H).

reactant | N-[1-(6-bromo-pyridin-2-yl)-2-methoxymethoxy-1-methoxymethoxymethyl-ethyl]-2-chloro-acetamide | 21.861 mmol, 9.0 g | BrC1=CC=CC(=N1)C(COCOC)(COCOC)NC(CCl)=O | C14H20BrClN2O5
reactant | BF3.Et2O | 141.93 mmol, 9.3 g | B(F)(F)F.CCOCC
solvent | ethanethiol | 30 ml | C(C)S | C2H6S
product | N-[1-(6-Bromo-pyridin-2-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | BrC1=CC=CC(=N1)C(CO)(CO)NC(CCl)=O | C10H12BrClN2O3
